US07989622B2
3-(N-(3-(2-chloro-5-methoxyphenylamino)quinoxalin-2-yl)sulfamoyl)-N-((1-methylpiperidin-2-yl)methyl)benzamide
3-(N-(3-(2-chloro-5-methoxyphenylamino)quinoxalin-2-yl)sulfamoyl)-N-(piperidin-2-ylmethyl)benzamide (299 mg, 0.51 mmol, 1 equiv), prepared using procedures similar to those described for Example 514, was dissolved in 2.3 mL of DMA. Formic acid (388 μL, 10.28 mmol, 20 equiv) was added to solution with stirring followed by the addition of formaldehyde (508 μL of 37% aq. solution). The reaction was then stirred at room temperature overnight. Analysis of an aliquot of the reaction mixture by LCMS indicated the complete consumption of starting material. The reaction was diluted with methanol (2 mL). Preparative reverse-phase HPLC was used to isolate the desired product directly from the crude reaction mixture. A Waters Fractionlynx preparative reverse-phase HPLC; equipped with a Waters SunFire Prep C18, OCD 5 μM, 30×70 mm column and running a 5-100% gradient with a binary solvent system of 25 mM ammonium acetate in water/acetonitrile; was used to carry out the purification. 1H NMR (400 MHz, d6-DMSO): 9.44 (s, 1H), 8.94 (s, 1H), 8.79 (t, 1H), 8.57 (s, 1H), 8.27 (d, 1H), 7.90 (d, 1H) 7.54 (t, 1H), 7.46 (d, 1H), 7.39 (d, 1H), 7.33 (d, 1H), 7.18 (m, 2H), 6.60 (dd, 1H), 3.82 (s, 3H), 3.59 (m, 2H), 3.00 (s, 1H), 2.90 (s, 3H), 1.62 (m, 7H); MS (EI) m/z for C29H31ClN6O4S: 595 (MH+).

reactant | 3-(N-(3-(2-chloro-5-methoxyphenylamino)quinoxalin-2-yl)sulfamoyl)-N-(piperidin-2-ylmethyl)benzamide | 0.51 mmol, 299 mg, 1 equiv | ClC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=C(C(=O)NCC2NCCCC2)C=CC1 | C28H29ClN6O4S
reactant | Formic acid | 10.28 mmol, 388 μL, 20 equiv | C(=O)O | CH2O2
reactant | formaldehyde | 508 μL | C=O | CH2O
solvent | DMA | 2.3 mL | CC(=O)N(C)C | C4H9NO
product | 3-(N-(3-(2-chloro-5-methoxyphenylamino)quinoxalin-2-yl)sulfamoyl)-N-((1-methylpiperidin-2-yl)methyl)benzamide | ClC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=C(C(=O)NCC2N(CCCC2)C)C=CC1 | C29H31ClN6O4S
